US07402608B2
To a solution of 5-(3-Fluoro-phenyl)-3-isopropylamino-thiophene-2-carboxylic acid methyl ester (200 mg, 0.683 mmol) in 1,2-dichloroethane (5 mL), acetic acid 2-chlorocarbonyl-5-methyl-cyclohexyl ester (148 mg, 0.679 mmol) and triphenylphosphine (197 mg, 0.751 mmol) were added under an atmosphere of N2. The reaction mixture was refluxed for 12 h and then diluted with chloroform and water. The organic layer was separated, dried (Na2SO4) and concentrated. The residue was purified by preparative TLC plate using 15% ethyl acetate in hexane to obtain 3[(2-Acetoxy-4-methyl-cyclohexanecarbonyl)-isopropyl-amino]-5-(3-fluoro-phenyl)-thiophene-2-carboxylic acid methyl ester as a white solid (40 mg, 12%). 1H NMR (CDCl3, 400 MHz): δ7.45-7.25 (m, 4H), 7.13-6.95 (m, 1H), 5.13 (m, 1H) 4.87-4.75 (m, 1H), 3.80 (s, 3H), 2.37-0.62 (m, 20H).

reactant | 5-(3-Fluoro-phenyl)-3-isopropylamino-thiophene-2-carboxylic acid methyl ester | 0.683 mmol, 200 mg | COC(=O)C=1SC(=CC1NC(C)C)C1=CC(=CC=C1)F | C15H16FNO2S
reactant | acetic acid 2-chlorocarbonyl-5-methyl-cyclohexyl ester | 0.679 mmol, 148 mg | ClC(=O)C1C(CC(CC1)C)OC(C)=O | C10H15ClO3
reactant | triphenylphosphine | 0.751 mmol, 197 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3[(2-Acetoxy-4-methyl-cyclohexanecarbonyl)-isopropyl-amino]-5-(3-fluoro-phenyl)-thiophene-2-carboxylic acid methyl ester | 40 mg, 12% | COC(=O)C=1SC(=CC1N(C(C)C)C(=O)C1C(CC(CC1)C)OC(C)=O)C1=CC(=CC=C1)F | C25H30FNO5S
